US04698352
In 25 ml of N,N-dimethylformamide was dissolved 2.9 g of methyl 2-(4-fluorophenylaminomethylene)-5-(4-acetaminophenyl)-3-oxo-4-pentenoate, and they are reacted at 140° C. for 2 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure and the residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: chloroform) to obtain an oily substance. This oily sugstance was dissolved in 30 ml of benzene, followed by dropwise addition thereto of a solution of 2.06 g of 2,3,5,6-tetrachloro-p-benzoquinone in 18 ml of benzene at 80° C. After completion of this dropwise addition, the reaction mixture was cooled to room temperature, and the precipitated crystals were collected by filtration and washed with 30 ml of benzene. These crystals were then dissolved in a mixed solution of 20 ml of methanol and 20 ml of a 1N aqueous sodium hydroxide solution, and they were reacted at room temperature for 30 minutes. The reaction solution was adjusted to a pH of 6.0 with acetic acid and the precipitated crystals were collected by filtration, washed with water and dried to obtain 2.3 g of 6-(4-acetaminophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinic acid having a melting point of 249°-250° C.

reactant | methyl 2-(4-fluorophenylaminomethylene)-5-(4-acetaminophenyl)-3-oxo-4-pentenoate | 2.9 g | FC1=CC=C(C=C1)NC=C(C(=O)OC)C(C=CC1=CC=C(C=C1)NC(=O)C)=O | C21H19FN2O4
reactant | 2,3,5,6-tetrachloro-p-benzoquinone | 2.06 g | ClC=1C(C(=C(C(C1Cl)=O)Cl)Cl)=O | C6Cl4O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 18 ml | C1=CC=CC=C1 | C6H6
product | 6-(4-acetaminophenyl)-1-(4-fluorophenyl)-4-oxo-1,4-dihydronicotinic acid | 2.3 g | N(C(=O)C)C1=CC=C(C=C1)C=1N(C=C(C(=O)O)C(C1)=O)C1=CC=C(C=C1)F | C20H15FN2O4
